US07799805B2
[2-(4-Chloro-3-formyl-phenyl)-ethyl]-ethyl-carbamic acid tert-butyl ester
NMO (133 mg, 0.956 mmol) was added to a sol. of [2-(4-chloro-3-hydroxymethyl-phenyl)-ethyl]-ethyl-carbamic acid tert-butyl ester (110 mg, 0.319 mmol) in CH2Cl2 (7.0 mL). The mixture was stirred for 30 min, and tetrapropylammonium perruthenate (11.2 mg, 0.032 mmol) was added. The mixture was stirred for 1 h at rt, and was filtered over Celite. The filtrate was evaporated under reduced pressure. Purification of the crude by FC (CH2Cl2/MeOH 49:1) yielded the title compound (80 mg, 80%). LC-MS: tR=1.07 min.

reactant | NMO | 0.956 mmol, 133 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | [2-(4-chloro-3-hydroxymethyl-phenyl)-ethyl]-ethyl-carbamic acid tert-butyl ester | 0.319 mmol, 110 mg | C(C)(C)(C)OC(N(CC)CCC1=CC(=C(C=C1)Cl)CO)=O | C16H24ClNO3
solvent | CH2Cl2 | 7.0 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 0.032 mmol, 11.2 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | [2-(4-Chloro-3-formyl-phenyl)-ethyl]-ethyl-carbamic acid tert-butyl ester | 80 mg, 80% | C(C)(C)(C)OC(N(CC)CCC1=CC(=C(C=C1)Cl)C=O)=O | C16H22ClNO3
